US09359371B2
In THF (15 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (120 mg, 0.27 mmol) and 2-methyl-2,6-diazaspiro[3.3]heptane (45 mg, 0.40 mmol). The solution was cooled in an ice bath, and triethylamine (82 mg, 0.81 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 8 h. The solvent was removed by rotary evaporation, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol/triethylamine=10/1/0.008) to give 4-((3-chloro-4-methoxybenzyl)amino)-2-(6-methyl-2,6-diazaspiro[3.3]heptan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide as a white solid (35 mg, 26% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.27 mmol, 120 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | 2-methyl-2,6-diazaspiro[3.3]heptane | 0.40 mmol, 45 mg | CN1CC2(C1)CNC2 | C6H12N2
reactant | triethylamine | 0.81 mmol, 82 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(6-methyl-2,6-diazaspiro[3.3]heptan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 35 mg, 26% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)N2CC3(C2)CN(C3)C)C=CC1OC | C24H27ClN8O2
